US09328099B2
Step B: 2,2,2-Trifluoroethyl 4-(4-carbamoyl-3-{[6-(1-methyl-1H-pyrazol-4-yl)pyridin-3-yl]amino}-1H-pyrazol-1-yl)-4-(cyanomethyl)piperidine-1-carboxylate
2,2,2-Trifluoroethyl 4-(4-carbamoyl-3-(6-chloropyridin-3-ylamino)-1H-pyrazol-1-yl)-4-(cyanomethyl)piperidine-1-carboxylate (45 mg, 0.093 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (23 mg, 0.11 mmol), Pd(dppf)Cl2 (8 mg, 0.009 mmol), potassium phosphate (59 mg, 0.28 mmol), 1,4-dioxane (0.25 mL), and water (0.03 mL) were combined in a 4 mL vial. The vial was then sealed and flushed with argon. The mixture was heated to 90° C. and was allowed to stir for 90 minutes. The mixture was cooled to ambient temperature, diluted with EtOAc and washed sequentially with water and brine. The organic layer was dried with anhydrous MgSO4, and concentrated in vacuo. The residue was purified by MPLC on silica gel (using a gradient elution of 0-10% MeOH/DCM) to afford the title compound, Example #11-1.

reactant | 2,2,2-Trifluoroethyl 4-(4-carbamoyl-3-(6-chloropyridin-3-ylamino)-1H-pyrazol-1-yl)-4-(cyanomethyl)piperidine-1-carboxylate | 0.093 mmol, 45 mg | C(N)(=O)C=1C(=NN(C1)C1(CCN(CC1)C(=O)OCC(F)(F)F)CC#N)NC=1C=NC(=CC1)Cl | C19H19ClF3N7O3
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.11 mmol, 23 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium phosphate | 0.28 mmol, 59 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | 0.25 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.009 mmol, 8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 0.03 mL | O | H2O
product | 2,2,2-Trifluoroethyl 4-(4-carbamoyl-3-{[6-(1-methyl-1H-pyrazol-4-yl)pyridin-3-yl]amino}-1H-pyrazol-1-yl)-4-(cyanomethyl)piperidine-1-carboxylate | C(N)(=O)C=1C(=NN(C1)C1(CCN(CC1)C(=O)OCC(F)(F)F)CC#N)NC=1C=NC(=CC1)C=1C=NN(C1)C | C23H24F3N9O3
